US05716945
3-Ethyl-6-(4-toluenesulfonyloxy)-hex-4-yn-3-ol, Compound 401
An ice-cold solution of 4-toluenesulfonyl chloride (6.4 g) and 4-ethylhex-2-yn-1,4-diol (McLamore, W. M. et al., J. Org. Chem., 19, 570-574 (1954) and Gouge, M., Ann. Chim., 6, 648-702 (1951)) (4.0 g) in ether (40 ml) was stirred with powdered potassium hydroxide (15 g) for 2 h. Water was added and the mixture was extracted with ether (2×250 ml). Work-up with chromatography using ether/pentane 1:1 (v/v) gave the title compound (6.5 g). 1H NMR: 0.91 (t, 6H), 1.55 (q, 4H), 1.83 (s, 1H), 2.45 (s, 2H), 4.76 (s, 2H), 7.36 (d, 2H), 7.82 (d, 2H).

reactant | 4-toluenesulfonyl chloride | 6.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 4-ethylhex-2-yn-1,4-diol | 4.0 g | C(C)C(C#CCO)(CC)O | C8H14O2
reactant | potassium hydroxide | 15 g | [OH-].[K+]
reactant | Water | O | H2O
solvent | ether | 40 ml | CCOCC | C4H10O
product | 3-Ethyl-6-(4-toluenesulfonyloxy)-hex-4-yn-3-ol | 6.5 g | C(C)C(CC)(C#CCOS(=O)(=O)C1=CC=C(C=C1)C)O | C15H20O4S
